US04017622
1,4-Dihydro-4-oxo-7-(4-methyl-1-piperazinyl)-1-vinyl-1,8-naphthyridine-3-carboxylic acid (AT-1276)
To 0.80 g of ethyl 1-(2-chloroethyl)-1,4-dihydro-7-(4-methyl-1-piperazinyl)-4-oxo-1,8-naphthyridine-3-carboxylate was added 10 ml of a 10% aqueous solution of sodium hydroxide. The mixture was heated at 90° - 95° C for 30 minutes and neutralized with acetic acid under cooling. The resulting mixture was extracted with chloroform. The extract was washed with water and concentrated to leave a yellow solid which was collected and recrystallized from ethanol to give 0.56 g of the product as pale yellow needles, m.p. 238° - 239° C.

reactant | ethyl 1-(2-chloroethyl)-1,4-dihydro-7-(4-methyl-1-piperazinyl)-4-oxo-1,8-naphthyridine-3-carboxylate | 0.80 g | ClCCN1C=C(C(C2=CC=C(N=C12)N1CCN(CC1)C)=O)C(=O)OCC | C18H23ClN4O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1,4-Dihydro-4-oxo-7-(4-methyl-1-piperazinyl)-1-vinyl-1,8-naphthyridine-3-carboxylic acid | 0.56 g | O=C1C(=CN(C2=NC(=CC=C12)N1CCN(CC1)C)C=C)C(=O)O | C16H18N4O3
